US08492582B2
Potassium carbonate (1.5 g) and 1-ethylpiperazine (1.0 mL) were added to an acetone (8.0 mL) solution of tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate (1.6 g), followed by heating to reflux for 5 hours. After cooling the reaction mixture to room temperature, the insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 100-90% chloroform/methanol] to obtain tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as a yellow oily substance.

reactant | Potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethylpiperazine | 1.0 mL | C(C)N1CCNCC1 | C6H14N2
reactant | tert-butyl 2-(2-(benzyloxy)-5-(2-bromoethoxy)benzamido)-4-phenylbenzoate | 1.6 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCBr | C33H32BrNO5
solvent | acetone | 8.0 mL | CC(=O)C | C3H6O
product | tert-butyl 2-(2-(benzyloxy)-5-(2-(4-ethylpiperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CC | C39H45N3O5
